US08242116B2
tert-Butyl (4-chloro-2-hydroxyphenyl)carbamate
To a stirred solution of 2-amino-5-chlorophenol (5.0 g, 34.82 mmol) in THF (70 mL) was added di-tert-butyl dicarbonate (15.2 g, 69.65 mmol). The reaction mixture was stirred at 50° C. for 3 h, then concentrated in vacuo. The solid was triturated with hexanes, filtered and washed with cyclohexane to give the title compound (7.3 g, 86%) as a brown solid. δH (CDCl3) 8.45 (1H, br. s), 7.00-6.96 (2H, m), 6.85 (1H, dd, J 8.5 and 2.2 Hz), 6.60 (1H, br. s), 1.50 (9H, s).

reactant | 2-amino-5-chlorophenol | 34.82 mmol, 5.0 g | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | di-tert-butyl dicarbonate | 69.65 mmol, 15.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | tert-Butyl (4-chloro-2-hydroxyphenyl)carbamate | 7.3 g, 86% | ClC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)O | C11H14ClNO3
